US03972961
An ethylene/maleic anhydride trunk copolymer was prepared which contained 86.5 weight percent ethylene and 13.5 weight percent maleic anhydride. The copolymer was pumped by an extruder through a tube heated to about 500°C. to reduce the molecular weight. The melt viscosity was 600 centipoises at 140°C. The average chain length was about 300 carbon atoms.

reactant | ethylene | C=C | C2H4
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | ethylene/maleic anhydride | C=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C2H4/c5-3-1-2-4(6)7-3;1-2/h1-2H;1-2H2
